US07851634B2
a) 7-Bromo-1-(3-methoxypropenyl)imidazo[1,5-a]pyridine
A suspension of 12.04 g of (2-methoxyethyl)triphenylphosphonium bromide [55894-16-1] in 50 ml of anhydrous N,N-dimethylformamide is admixed with 2.60 g of sodium hydride (60% dispersion). The reaction mixture is stirred at room temperature for 30 minutes and a solution of 6.75 g of 7-bromoimidazo[1,5-a]pyridine-1-carbaldehyde in 20 ml of N,N-dimethylformamide is added. The reaction mixture is subsequently stirred at 50° C. for 1 hour. The reaction mixture is cooled to room temperature and poured onto ice-water. The quenched mixture is acidified with 1M HCl and extracted with tert-butyl methyl ether (3×100 ml). The combined organic phases are washed with water (100 ml) and brine (100 ml), dried over sodium sulphate and concentrated by evaporation. The title compound is identified on the basis of the Rf value from the residue by means of flash chromatography (SiO2 60 F).

reactant | (2-methoxyethyl)triphenylphosphonium bromide | 12.04 g | [Br-].COCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | sodium hydride | 2.60 g | [H-].[Na+]
reactant | 7-bromoimidazo[1,5-a]pyridine-1-carbaldehyde | 6.75 g | BrC1=CC=2N(C=C1)C=NC2C=O | C8H5BrN2O
reactant | HCl | 1M | Cl | ClH
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 7-Bromo-1-(3-methoxypropenyl)imidazo[1,5-a]pyridine | BrC1=CC=2N(C=C1)C=NC2C=CCOC | C11H11BrN2O
